US05925659
A solution of Boc-(D)-serine benzyl ester (1.1 g) in 1/1 mixture of the TFA and methylene chloride was stirred for 1 hour and then concentrated and azeotroped from toluene to give D-serine benzyl ester HCl salt. The residue was dissolved in methylene (15 ml), and added methyl benzimidate HCl (732 mg) and TEA (0.5 ml). The mixture was stirred at room temperature for 3 hours and then concentrated. Purification by flash chromatography (hexanes/ethyl acetate=6/1) gave 572 mg of the title compounds.

reactant | Boc-(D)-serine benzyl ester | 1.1 g | C(C1=CC=CC=C1)OC([C@H](NC(=O)OC(C)(C)C)CO)=O | C15H21NO5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | D-serine benzyl ester HCl salt | Cl.C(C1=CC=CC=C1)OC([C@H](N)CO)=O | InChI=1S/C10H13NO3.ClH/c11-9(6-12)10(13)14-7-8-4-2-1-3-5-8;/h1-5,9,12H,6-7,11H2;1H/t9-;/m1./s1
